US07683060B2
Step 4. 5-[1-(4-Methoxyphenyl)cyclopropyl]-4H-1,2,4-triazole-3,4-diamine
A mixture of 5-[1-(4-methoxyphenyl)cyclopropyl]-1,3,4-oxadiazol-2-amine (0.60 g, 2.6 mmol), and hydrazine (0.64 mL, 20 mmol) in water (2.0 mL) was heated at 190° C. for 3 h. After cooling to RT, the mixture was further cooled with ice-water. The crystalline solid formed was collected by filtration, washed with water, and dried under high vacuum to yield the desired product (300 mg, 47.1%). Analytical LCMS: (M+H)+=246.1.

reactant | 5-[1-(4-methoxyphenyl)cyclopropyl]-1,3,4-oxadiazol-2-amine | 2.6 mmol, 0.60 g | COC1=CC=C(C=C1)C1(CC1)C1=NN=C(O1)N | C12H13N3O2
reactant | hydrazine | 20 mmol, 0.64 mL | NN | H4N2
solvent | water | 2.0 mL | O | H2O
product | 5-[1-(4-Methoxyphenyl)cyclopropyl]-4H-1,2,4-triazole-3,4-diamine | 300 mg, 47.1% | COC1=CC=C(C=C1)C1(CC1)C=1N(C(=NN1)N)N | C12H15N5O
